US07342031B2
To 50 ml of water, 9.33 g of allylisothiourea hydrochloride and 8.82 g of perchloromethylmercaptan were added, followed the solution of 7.58 g of sodium hydroxide dissolved to 50 ml of water was added dropwise at about 0° C., followed by stirring for 4 hours. Then, t-butylmethylether was added to the reaction mixture, and extracted. The organic layer was dried by anhydrous sodium salfate, and concentrated. The residue obtaind was subjected to silica gel column chromatography to obtain 3.6 g of 3-allylthio-5-chloro-1,2,4-thiadiazole.

reactant | water | 50 ml | O | H2O
reactant | allylisothiourea hydrochloride | 9.33 g | Cl.C(C=C)NC(S)=N
reactant | perchloromethylmercaptan | 8.82 g | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 7.58 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 3-allylthio-5-chloro-1,2,4-thiadiazole | 3.6 g | C(C=C)SC1=NSC(=N1)Cl | C5H5ClN2S2
